US09402850B2
9-(2-Methoxy-benzylidene)-2-nitro-9H-fluorene (CYD-1-70)
To a solution of 2-nitrofluorene (1.05 g, 5 mmol) and 2-methoxybenzaldehyde (0.816 g, 6 mmol) in 20 mL of methanol was added KF—Al2O3 (0.75 g, 4.5 mmol). The resulting mixture was stirred at 72° C. After 6 hrs, TLC indicated that the starting material was gone. 40 mL of CH2Cl2 was added into the reaction mixture. The insoluble solid was filtrated, and the filtrate was concentrated under vacuum to give a yellow solid, which was recrystallized from alcohol and CH2Cl2 to give 1.2 g of CYD-1-70 as a yellow solid. 1H-NMR (600 MHz, CDCl3) δ 8.84 (s, 0.36H), 8.26 (m, 1.65H), 8.10 (m, 3.05H), 8.02 (s, 0.57H), 7.55 (m, 4H), 7.24 (m, 1.24H), 7.10 (m, 0.91H), 3.84 (s, 3H)

reactant | 2-nitrofluorene | 5 mmol, 1.05 g | [N+](=O)([O-])C1=CC=2CC3=CC=CC=C3C2C=C1 | C13H9NO2
reactant | 2-methoxybenzaldehyde | 6 mmol, 0.816 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | 9-(2-Methoxy-benzylidene)-2-nitro-9H-fluorene | COC1=C(C=C2C3=CC=CC=C3C=3C=CC(=CC23)[N+](=O)[O-])C=CC=C1 | C21H15NO3
